US07375113B2
To a solution of 4-[2-(4-benzyloxyphenyl)ethyl]-1-carboxymethyl-3-(β-D-glucopyranosyloxy)-1H-pyrazolo-[3,4-b]pyridine (50 mg) in N,N-dimethylformamide (2 mL) were added dimethylamine hydrochloride (9 mg), 1-hydroxy-benzotriazole (14 mg), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (34 mg) and triethylamine (0.049 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water, a saturated aqueous sodium hydrogen carbonate solution and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1−8/1) to give 4-[2-(4-benzyloxyphenyl)ethyl]-3-(β-D-glucopyranosyloxy)-1-(N,N-dimethylcarbamoylmethyl)-1H-pyrazolo[3,4-b]pyridine (27 mg). This material was dissolved in methanol (4 mL). To the solution was added 10% palladium-carbon powder (10 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 3 hours. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give the title compound (20 mg).

reactant | 4-[2-(4-benzyloxyphenyl)ethyl]-1-carboxymethyl-3-(β-D-glucopyranosyloxy)-1H-pyrazolo-[3,4-b]pyridine | 50 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC1=C2C(=NC=C1)N(N=C2O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)CC(=O)O | C29H31N3O9
reactant | dimethylamine hydrochloride | 9 mg | Cl.CNC
reactant | 1-hydroxy-benzotriazole | 14 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 34 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 0.049 mL | C(C)N(CC)CC | C6H15N
product | 4-[2-(4-benzyloxyphenyl)ethyl]-3-(β-D-glucopyranosyloxy)-1-(N,N-dimethylcarbamoylmethyl)-1H-pyrazolo[3,4-b]pyridine | 27 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC1=C2C(=NC=C1)N(N=C2O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)CC(N(C)C)=O | C31H36N4O8
